US08389524B2
(h) Butyl 3-[2-{(2,2-dimethylpropanoyl)[(2-oxo-1,3-dioxolan-4-yl)methyl]amino}-6-(methyloxy)-3-pyridinyl]propanoate
A solution of butyl (2E)-3-[2-{(2,2-dimethylpropanoyl)[(2-oxo-1,3-dioxolan-4-yl)methyl]amino}-6-(methyloxy)-3-pyridinyl]-2-propenoate (6.156 g, 14.184 mmol) in ethanol (200 ml) was treated with palladium on carbon (10% paste, 1.23 g) and the mixture was then stirred at rt under 1 atmosphere of hydrogen for 18 h. The reaction mixture was then filtered through a thin pad of Celite, eluting with more ethanol (200 ml). The organic filtrate was then evaporated to give the product as a yellow oil (6.065 g, 98%).

reactant | butyl (2E)-3-[2-{(2,2-dimethylpropanoyl)[(2-oxo-1,3-dioxolan-4-yl)methyl]amino}-6-(methyloxy)-3-pyridinyl]-2-propenoate | 14.184 mmol, 6.156 g | CC(C(=O)N(C1=NC(=CC=C1/C=C/C(=O)OCCCC)OC)CC1OC(OC1)=O)(C)C | C22H30N2O7
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.23 g | [Pd] | Pd
product | Butyl 3-[2-{(2,2-dimethylpropanoyl)[(2-oxo-1,3-dioxolan-4-yl)methyl]amino}-6-(methyloxy)-3-pyridinyl]propanoate | 6.065 g, 98% | CC(C(=O)N(C1=NC(=CC=C1CCC(=O)OCCCC)OC)CC1OC(OC1)=O)(C)C | C22H32N2O7
